* source 3
V_V1         N00627 0  
+SIN 0 10m 1k 0 0 0
C_C1         N00627 N00549  10u  
R_R1         0 N00549  10.5k  
R_R2         N00549 N00490  47k  
M_M1         N01337 N00549 0 0 M2N7000
R_R3         N01337 N00490  5k  
V_V2         N00490 0 10
C_C2         N01337 N001881  10u  
R_R4         N001881 0  100meg  
